Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
"I was in a volatile situation with my boyfriend"
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ college-educated woman with a history of 
migraines and no known psychiatric diagnoses, treatment, or 
diagnoses, one suicide attempt by tylenol OD in ___, repeated 
sexual/physical abuse, and aggressive behavior towards 
self/others and significant family psychiatric history who was 
brought to ___ ED by her mother due to concern about her 
safety.
.
Patient says that her mother suggested that she come to the 
emergency room after she "had an explosion" which involved 
physical/verbal aggression in the setting of an upsetting phone 
conversation with her boyfriend. Patient describes herself as 
"volatile" and says that her boyfriend was "playing god and not 
accepting any culpability. ___ someone else wouldn't have 
acted as extremely as I did, but I don't know." She describes 
punching her hand into the wall and screaming to the point that 
the neighbors came out on the lawn due to the commotion. 
Patient's mother tried desperately to calm her down but was 
unable to. Patient says that this sort of explosion has happened 
before, as recently as two weeks ago, and is usually in the 
setting of a conflict with her boyfriend of 4 months or her 
mother. During this incident, she had thoughts of "strangling or 
beating" her boyfriend and worries that if she saw him now she 
would "punch him in the face." Patient also worries about what 
she would do to herself when angry, as she has purposefully 
injured her knuckles or used a scissors to cut her wrists over 
the last ___ weeks. During these episodes, patient finds herself 
hyperventilating and crying uncontrollably, and recently she's 
been feeling like "I don't want to live" thought denies any 
specific plans as to what she would do to hurt herself.

Patient says that she often feels depressed. She does not like 
to be awake during the day and so tries to sleep or spend most 
of the day in bed. She has lost interest/motivation in doing 
things, feels fatigued, and has poor appetite and 3 lb weight 
loss. She does endorse erratic eating behaviors, such as not 
eating for a whole day. She often feels nauseated. 

Patient denies auditory/visual hallucianations. Her mother 
recalls a period of time one year ago when she had rapid speech 
and increased energy, but patient does not recall this.

Collateral obtained from mother (at bedside): Very concerned 
about daughter's mood and behavior. Worries that she is not able 
to control herself and may do something serious to hurt herself. 
As a result of this concern, she has removed all the knives from 
the kitchen.

 
Past Medical History:
PAST MEDICAL HISTORY:
migraines
cochlear implant in right ear
.
MEDICATIONS including vitamins, herbs, supplements, OTC:
none
.
ALLERGIES: 
NKDA

 
Social History:
FORENSIC HISTORY:
Arrests: 3
patient was attacked by a cab driver in ___ and then hit him and
was arrested
Kicked step-father -> arrest
caught shop-lifting in ___ -> arrest
.
SOCIAL HISTORY:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
father- likely bipolar, per mother; marijuana use
brother- depression
mother- depression
great grandmother- completed suicide by hanging
maternal grand father- alcoholism

 
Physical ___:
EXAM: 
*VS:  99.8 76 116/70 16 100% ra 
Neurological:  
 *station and gait: Stable. Posture, stride, and arm-swing
normal.  
 *tone and strength: Grossly normal bulk and tone. Moves
spontaneously.
 cranial nerves: ___ symmetrically intact
 abnormal movements: None observed
 
Cognition: 
 Wakefulness/alertness: Awake and alert
 *Attention (digit span, MOYB): Attentive to examiner. Able to
spell "world" backwards
 *Orientation: Full (name, place, and date)
 *Memory:   intact to history; ___ registration and 3- minute
recall
 *Fund of knowledge:  Average
 Calculations:  $1.75= 7 quarters
 Abstraction: concrete  watch/ruler 
 *Speech: Normal rate, rhythm, volume, prosody. Demonstrates
appropriate variation in tone. 
 *Language: Fluent ___ speaker without paraphasic errors. No
neologisms.
 
Mental Status:
 *Appearance: Sitting in bed with blanket wrapped around self.
Appears stated age. Disheveled.
 Behavior: cooperative, readily engages in interview, calm, good
eye contact 
 *Mood and Affect: "depressed" affect is generally dysphoric and
restricted 
 *Thought process / *associations:  linear and goal directed.  
No
loosening of associations, no tangentiality.  Does not appear to
be responding to internal stimuli.
 *Thought Content: Passive SI and thoughts of physical 
aggression
towards boyfriend (punching). No AVH. No overt paranoia or
delusions. 
 *Judgment and Insight:  Impaired- delay in seeking help, 
violent
behavior, substance use 
 
DATA:
Labs:
BMP: within normal limits
serum tox: negative
CBC:
16.3>12.5/38.3<278

 
Pertinent Results:
___ 07:21PM   GLUCOSE-97 UREA N-9 CREAT-0.6 SODIUM-137 
POTASSIUM-3.8 CHLORIDE-102 TOTAL CO2-25 ANION GAP-14
___ 07:21PM   estGFR-Using this
___ 07:21PM   ALT(SGPT)-12 AST(SGOT)-16 ALK PHOS-69 TOT 
BILI-0.5
___ 07:21PM   CALCIUM-9.2 PHOSPHATE-3.9 MAGNESIUM-2.2
___ 07:21PM   TSH-2.1
___ 07:21PM   ___
___ 07:21PM   WBC-13.7* RBC-3.99* HGB-12.2 HCT-36.5 MCV-92 
MCH-30.6 MCHC-33.5 RDW-13.4
___ 07:21PM   PLT COUNT-275
___ 04:22AM URINE  HOURS-RANDOM
___ 04:22AM URINE  HOURS-RANDOM
___ 04:22AM URINE  UCG-POSITIVE
___ 04:22AM URINE  GR HOLD-HOLD
___ 04:22AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 04:22AM URINE  COLOR-Yellow APPEAR-Cloudy SP ___
___ 04:22AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-10 BILIRUBIN-NEG UROBILNGN-2* PH-7.0 LEUK-NEG
___ 04:22AM URINE  MUCOUS-FEW
___ 08:50PM   GLUCOSE-83 UREA N-11 CREAT-0.6 SODIUM-138 
POTASSIUM-3.7 CHLORIDE-103 TOTAL CO2-24 ANION GAP-15
___ 08:50PM   ___
___ 08:50PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 08:50PM   WBC-16.3* RBC-4.10* HGB-12.5 HCT-38.3 MCV-93 
MCH-30.5 MCHC-32.7 RDW-13.3
___ 08:50PM   NEUTS-74.9* LYMPHS-17.9* MONOS-4.2 EOS-2.4 
BASOS-0.6
___ 08:50PM   PLT COUNT-278
 
Brief Hospital Course:
LEGAL/SAFETY:  Patient was initially admitted on a ___, 
and subsequently signed a CV.  She was monitored on 15 minute 
checked.  Initially, patient expressed thoughts of passive SI, 
though no active SI/no plan.  Patient maintained her safety and 
demonstrated no self-harming behaviors while on the unit.  She 
did not represent an acute safety risk to herself or others.  
Patient was cooperative with the treatment plan.  Patient 
participated in individual, group, and milieu therapy while 
inpatient.  Patient was able to maintain her ADLs independently.

PSYCHIATRIC

This is a ___ yo pregnant college educated woman with a history 
of migraines, no psychiatric diagnoses though history of one 
suicide attempt by acetaminophen overdose in ___, history of 
physical and sexual abuse, aggressive behavior toward self and 
others, and significant marijuana use, admitted to the inpatient 
psychiatric unit due to labile mood and SI following a phone 
converation with her boyfriend.  Patient notes neurovegetative 
symptoms of depression, along with passive SI and control over 
her inability to ontrolher aggressive tendencies.  Patient is 
dysphoric and intermittently tearful at times.  Clinical 
presentaiton is most consistent with a primary mood disorder 
NOS, likely presenting with major depressive disorder.  
Substance-induced mood disorder could also be considered, given 
patient's longstanding history of daily marijuana use.  Also of 
note, patient's mother recalls a period of time one year ago 
where patient had rapid speech, and increased energy, though 
patient denies this.  Hence, bipolar disorder could be 
considered, though less likely.  Patient should also be 
considered for a borderline character pathology, given her 
presentation with relationship instability and her reported 
"tendency not to connect to folks," coupled with her history of 
self harm, and reactive mood with affect instability.  Of note, 
patient has a number of strengths which make for a more 
favorable prognosis.  She is intelligent, attended college, was 
able to maintain employment, and can be quite engaging in 
conversations with her treatment team.  Patient benefitted from 
this inpatient psychiatric hospitalization, as she learned 
positive coping skills and engaged in individual, group, and 
milieu therapy.

#.Mood Disorder NOS
Patient presents with longstanding reactive mood with affect 
instability.  Currently
presenting with neurovegetative symptoms of depression, 
including thoughts of passive SI.  While this may represent a 
major depressive episode, clinical presentation and history is 
most consistent with cluster B traits, likely a borderline 
character organization.  Patient has history of tumultuous 
relationships and is reports difficulty connecting with others.  
Patient has history of self-harm, with numerous episodes of 
cutting hers wrists and arms with scissors over the past ___ 
weeks.  Patient has also expressed desire to punch her 
boyfriend, and history of thoughts of "strangling or beating" 
him.  Patient acknowledges that she is interested in learning 
positive coping skills while inpatient.  Patient was encouraged 
to participate in individual, group, and milieu therapy while on 
the unit.  Patient is currently pregnant discussed the risks and 
benefits of starting
an SSRI at this time, specifically the risk of pulmonary 
hypertension, GI side effects, and potential initial feelings of 
"grogginess."  Patient declined to begin any antidepressants at 
this time, and pursued psychotherapeutic options.  Patient was 
given Benadryl 25mg po qHS prn insomnia with good effect.  
Patient was scheduled for an appointment with an outpatient 
psychotherapist, and is motivated to work with a therapist long 
term to continue to improve her coping skills.

MEDICAL:

#.Ob/Gyn: Pregnancy and left adnexal mass:
Patient tested positive for pregnancy by ___ in the ED.  
Transvaginal ultrasound was obtained, which demonstrated single 
live intrauterine pregancy, estimated GA of 6weeks 1 day.  
Ultrasound also demonstrated a left adnexal mass, differential 
includes either a hemorrhagic cyst, endometrioma, or a mature 
cystic teratoma.  Ob/Gyn service was consulted via phone, who 
recommended starting the patient on prenatal vitamins, and 
obtaining a follow-up ultrasound in 6 weeks to monitor the 
adnexal mass.  Otherwise, no additional interventions required 
at this time.  Ob/Gyn service offered to be of assistance in 
terms of future medication recommendations.  Patient was started 
on a prenatal vitamin daily, and was given a prescription for a 
prenatal vitamin on discharge.  Patient was scheduled for a 
follow-up appointment with her primary care provider.  Patient 
was also scheduled for a follow-up appointment with an ob/gyn, 
with recommendation that she have a repeat ultrasound in 6 weeks 
to reassess the left adnexal mass.

 
Medications on Admission:
None
 
Discharge Medications:
1. Prenatal Vitamins 1 TAB PO DAILY 
RX *PNV with calcium ___ [Prenatal Plus (calcium 
carb)] 27 mg iron-1 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*1

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
-Mood disorder NOS
-Pregnancy (estimated GA 6 weeks)
-Left adnexal mass

 
Discharge Condition:
 Neurological:
    *station and gait: normal gait and station 
    *tone and strength: moves spontaneously, otherwise not
assessed
    cranial nerves: grossly intact
    abnormal movements: no tics, no tremors, no abnormal
movements
  *Appearance:  Rather disheveled wearing pajamas. Appears 
stated age.
  Behavior: Cooperative with interview, calm.  Good eye contact. 

  *Mood and Affect: Continued reactive mood with
affect instability, affect currently dysphoric
  *Thought process (including whether linear, tangential,
circumstantial and presence or absence of loose *associations):
Linear, goal directed, no LoA
  *Thought Content (including presence or absence of
hallucinations, delusions, homicidal and suicidal ideation, with
details if present): No SI, no thoughts of self harm.  Patient
currently remaining in good control of her behavior.
  *Judgment and Insight: Fair / Fair
  Cognition:
    *Speech: Normal rate, tone, and prosody

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
 
*It was a pleasure to have worked with you, and we wish you the 
best of health.*

 
Followup Instructions:
___